US07842945B2
14.4 g (32.4 mmol) of 1-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol, 9.68 g (58.3 mmol) of potassium iodide, 18.6 g (175 mmol) of sodium phosphinate monohydrate, and 100 mL of glacial acetic acid were put into a 500 mL three-neck flask, and the mixture was refluxed for 5 hours at 120° C. After the reaction was completed, 40 mL of a 50% phosphinic acid was added to the mixture, and stirring was kept for 18 hours at room temperature. After the reaction was completed, the reaction solution was washed with water, and the aqueous layer was extracted with ethyl acetate. The extracted part was combined with the organic layer, and then dried with magnesium sulfate. After drying, a mixture was subjected to suction filtration, and the filtrate was concentrated. The obtained residue was dissolved in toluene, and filtered through Florisil, celite, and then alumina, and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (eluent; toluene:hexane=1:5). The resulting solid was washed with ethanol, providing 0.50 g of 1-bromo-9,10-diphenylanthracene as light yellow powder in 3.8% yield.

reactant | 1-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol | 32.4 mmol, 14.4 g | BrC1=CC=CC=2C(C3=CC=CC=C3C(C12)(O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C26H19BrO2
reactant | potassium iodide | 58.3 mmol, 9.68 g | [I-].[K+]
reactant | sodium phosphinate monohydrate | 175 mmol, 18.6 g | O.[PH2]([O-])=O.[Na+]
reactant | phosphinic acid | [PH2](O)=O | H3O2P
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-bromo-9,10-diphenylanthracene | 0.50 g, 3.8% yield | BrC1=CC=CC2=C(C3=CC=CC=C3C(=C12)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Br
